*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : SER2011-501
* Inductance = 0.5uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt SER2011-501_freq port1 port2 PARAMS: Cpar=3.98pF Ind=0.5uH
X1 port1 port2 Model1A PARAMS:
+ R1=100
+ R2=0.00113
+ C= {Cpar}
+ K1=0.0001
+ K2=0.085
+ K3= {Ind}
+ K4=0.00123
+ K5=0.000004
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=534.226775
.ends SER2011-501_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : SER2011-501
* Inductance = 0.5uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt SER2011-501_imp port1 port2 PARAMS: Cpar=3.92pF Ind=0.5uH
X1 port1 port2 Model1D PARAMS:
+ R1=100
+ R2=0.00113
+ C= {Cpar}
+ K1=0.0001
+ K2=0.085
+ K3= {Ind}
+ K4=0.00123
+ K5=0.000004
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=534.226775
.ends SER2011-501_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : SER2011-601
* Inductance = 0.6uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt SER2011-601_freq port1 port2 PARAMS: Cpar=3.92pF Ind=0.6uH
X1 port1 port2 Model1A PARAMS:
+ R1=145
+ R2=0.00113
+ C= {Cpar}
+ K1=0.000042
+ K2=0.097
+ K3= {Ind}
+ K4=0.00263
+ K5=0.00000682
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=529.206923
.ends SER2011-601_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : SER2011-601
* Inductance = 0.6uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt SER2011-601_imp port1 port2 PARAMS: Cpar=3.81pF Ind=0.6uH
X1 port1 port2 Model1D PARAMS:
+ R1=145
+ R2=0.00113
+ C= {Cpar}
+ K1=0.000042
+ K2=0.097
+ K3= {Ind}
+ K4=0.00263
+ K5=0.00000682
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=529.206923
.ends SER2011-601_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : SER2011-681
* Inductance = 0.68uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-90MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt SER2011-681_freq port1 port2 PARAMS: Cpar=4.5pF Ind=0.68uH
X1 port1 port2 Model1A PARAMS:
+ R1=172
+ R2=0.00113
+ C= {Cpar}
+ K1=0.00006
+ K2=0.116
+ K3= {Ind}
+ K4=0.00123
+ K5=0.0000062
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=522.329807
.ends SER2011-681_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : SER2011-681
* Inductance = 0.68uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-90MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt SER2011-681_imp port1 port2 PARAMS: Cpar=4.45pF Ind=0.68uH
X1 port1 port2 Model1D PARAMS:
+ R1=172
+ R2=0.00113
+ C= {Cpar}
+ K1=0.00006
+ K2=0.116
+ K3= {Ind}
+ K4=0.00123
+ K5=0.0000062
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=522.329807
.ends SER2011-681_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : SER2011-801
* Inductance = 0.8uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-80MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt SER2011-801_freq port1 port2 PARAMS: Cpar=6pF Ind=0.8uH
X1 port1 port2 Model1A PARAMS:
+ R1=157
+ R2=0.00113
+ C= {Cpar}
+ K1=0.00011
+ K2=0.144
+ K3= {Ind}
+ K4=0.00000743
+ K5=0.000002
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=536.130306
.ends SER2011-801_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : SER2011-801
* Inductance = 0.8uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-80MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt SER2011-801_imp port1 port2 PARAMS: Cpar=6.00pF Ind=0.8uH
X1 port1 port2 Model1D PARAMS:
+ R1=157
+ R2=0.00113
+ C= {Cpar}
+ K1=0.00011
+ K2=0.144
+ K3= {Ind}
+ K4=0.00000743
+ K5=0.000002
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=536.130306
.ends SER2011-801_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : SER2011-901
* Inductance = 0.9uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-70MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt SER2011-901_freq port1 port2 PARAMS: Cpar=5.09pF Ind=0.9uH
X1 port1 port2 Model1A PARAMS:
+ R1=200
+ R2=0.00113
+ C= {Cpar}
+ K1=0.000159
+ K2=0.131
+ K3= {Ind}
+ K4=0.00426
+ K5=0.00000543
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=529.913781
.ends SER2011-901_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : SER2011-901
* Inductance = 0.9uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-70MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt SER2011-901_imp port1 port2 PARAMS: Cpar=4.95pF Ind=0.9uH
X1 port1 port2 Model1D PARAMS:
+ R1=200
+ R2=0.00113
+ C= {Cpar}
+ K1=0.000159
+ K2=0.131
+ K3= {Ind}
+ K4=0.00426
+ K5=0.00000543
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=529.913781
.ends SER2011-901_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : SER2011-102
* Inductance = 1uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-70MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt SER2011-102_freq port1 port2 PARAMS: Cpar=4.82pF Ind=1uH
X1 port1 port2 Model1A PARAMS:
+ R1=215
+ R2=0.00113
+ C= {Cpar}
+ K1=0.00098
+ K2=0.126
+ K3= {Ind}
+ K4=0.002
+ K5=0.00004
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=533.891524
.ends SER2011-102_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : SER2011-102
* Inductance = 1uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-70MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt SER2011-102_imp port1 port2 PARAMS: Cpar=4.74pF Ind=1uH
X1 port1 port2 Model1D PARAMS:
+ R1=215
+ R2=0.00113
+ C= {Cpar}
+ K1=0.00098
+ K2=0.126
+ K3= {Ind}
+ K4=0.002
+ K5=0.00004
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=533.891524
.ends SER2011-102_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : SER2011-122
* Inductance = 1.2uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-60MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt SER2011-122_freq port1 port2 PARAMS: Cpar=6.5pF Ind=1.2uH
X1 port1 port2 Model1A PARAMS:
+ R1=165
+ R2=0.00113
+ C= {Cpar}
+ K1=0.000123
+ K2=0.155
+ K3= {Ind}
+ K4=0.00385
+ K5=0.00000517
+ L=0.00000201
+ Is=30.1
+ a=5.1681
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=596.781759
.ends SER2011-122_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : SER2011-122
* Inductance = 1.2uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-60MHz
*   Ambient Temperature = 25 degC
*   Inductor Saturation Model
*   Use model for Time Domain simulations
*======================================================================
.subckt SER2011-122_sat port1 port2 PARAMS: Cpar=6.38pF Ind=1.2uH
X1 port1 port2 Model1C PARAMS:
+ R1=165
+ R2=0.00113
+ C= {Cpar}
+ K1=0.000123
+ K2=0.155
+ K3= {Ind}
+ K4=0.00385
+ K5=0.00000517
+ L=0.00000201
+ Is=30.1
+ a=5.1681
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=596.781759
.ends SER2011-122_sat

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : SER2011-202
* Inductance = 2uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-40MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt SER2011-202_freq port1 port2 PARAMS: Cpar=6.2pF Ind=2uH
X1 port1 port2 Model1A PARAMS:
+ R1=475
+ R2=0.00113
+ C= {Cpar}
+ K1=0.000075
+ K2=0.258
+ K3= {Ind}
+ K4=0.00513
+ K5=0.00000627
+ L=0.00000201
+ Is=30.1
+ a=5.1681
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=614.946571
.ends SER2011-202_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : SER2011-202
* Inductance = 2uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-40MHz
*   Ambient Temperature = 25 degC
*   Inductor Saturation Model
*   Use model for Time Domain simulations
*======================================================================
.subckt SER2011-202_sat port1 port2 PARAMS: Cpar=6.11pF Ind=2uH
X1 port1 port2 Model1C PARAMS:
+ R1=475
+ R2=0.00113
+ C= {Cpar}
+ K1=0.000075
+ K2=0.258
+ K3= {Ind}
+ K4=0.00513
+ K5=0.00000627
+ L=0.00000201
+ Is=30.1
+ a=5.1681
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=614.946571
.ends SER2011-202_sat

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Saturation Inductor Model
*======================================================================
* Model Parameters:
*   Valid Frequency Range Varies by Inductor
*   Ambient Temperature = 25 degC
*   Current Saturable Inductor Model
*======================================================================
.subckt Model1C Lin Lout PARAMS:
+ R1=1
+ R2=1
+ C=1
+ L=1
+ Is=1
+ a=1
+ PkZ=94.2 * {L} *1e6
R2 N001 Lin {R2}
R3 Lout N001 {PkZ}
C1 N002 N001 {C}
R1 Lout N002 {R1}
E1 N003 N001 N004 0 1
G1 0 N004 VALUE={{L*Is}*tanh((I(E1)/{Is})**{a})**{1/a}}
L1 N004 0 1
E2 N003 Lout N005 0 1
G2 0 N005 VALUE={{L*Is}*tanh((I(E2)/{Is})**{a})**{1/a}}
L2 N005 0 1
.ends Model1C
*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Power Inductor Model
*======================================================================
* Model Parameters:
*   Valid Frequency Range Varies by Inductor
*   Ambient Temperature = 25 degC
*   DC Bias Current = 0 A
*   Frequency Dependent Inductor Model
*======================================================================
.subckt Model1A Lin Lout PARAMS:
+ R1=1
+ R2=1
+ C=1
+ K1=1
+ K2=1
+ K3=1
+ K4=1
+ K5=1
R2 N001 Lin {R2}
R1 Lout N002 {R1}
C1 N002 N001 {C}
G_Rvar2 N001 Lout LAPLACE { V(N001, Lout) } {1/K2/(-S*S/4/PI^2)^0.25}
G_Rvar1 N001 N003 LAPLACE { V(N001, N003) } {1/K1/(-S*S/4/PI^2)^0.25}
G_Lvar N003 Lout  LAPLACE { V(N003, Lout) } {1/(S*1e-6*({K3*1e6}-({K4}*LOG({K5}*(sqrt(-S*S)/(2*pi))))))}
*This large resistance to ground has been added to prevent a floating node error
R3 N003 0 100Meg
.ends Model1A

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Impedance Inductor Model
*======================================================================
* Model Parameters:
*   Valid Frequency Range Varies by Inductor
*   Ambient Temperature = 25 degC
*   Time Domain Inductor Impedance Model
*======================================================================
.subckt Model1D Lin Lout PARAMS:
+ R1=1
+ R2=1
+ C=1
+ K3=1
+ PkZ=1
R2 Lin N001 {R2}
R3 N001 Lout {PkZ}
C1 N001 N002 {C}
R1 N002 Lout {R1}
L1 N001 Lout {K3}
.ends Model1D









.subckt Coilcraft_Inductor Lin Lout
R1 Lout Lin 100Meg
.ends Coilcraft_Inductor
